US07238808B2
A mixture of 4,4,4-trifluoro-1-(4-trifluoromethyl-phenyl)-butane-1,3-dione (10.0 g, 35.2 mmol) and 5-amino-1H-imidazole-4-carboxylic acid ethyl ester (5.0 g, 32.2 mmol) in acetic acid (120 mL) was refluxed for 24 h and evaporated. The crude product was further purified by column chromatography on silica gel (ethyl acetate/heptane) and crystallization (diethyl acetate/hexane) to yield 4-trifluoromethyl-2-(4-trifluoromethyl-phenyl)-imidazo[1,5-a]pyrimidine-8-carboxylic acid ethyl ester (5.65 g, 43%) as a yellow solid. MS (EI) 403.1 [(M)+]; mp 243° C.

reactant | 4,4,4-trifluoro-1-(4-trifluoromethyl-phenyl)-butane-1,3-dione | 35.2 mmol, 10.0 g | FC(C(CC(=O)C1=CC=C(C=C1)C(F)(F)F)=O)(F)F | C11H6F6O2
reactant | 5-amino-1H-imidazole-4-carboxylic acid ethyl ester | 32.2 mmol, 5.0 g | C(C)OC(=O)C=1N=CNC1N | C6H9N3O2
solvent | acetic acid | 120 mL | C(C)(=O)O | C2H4O2
product | 4-trifluoromethyl-2-(4-trifluoromethyl-phenyl)-imidazo[1,5-a]pyrimidine-8-carboxylic acid ethyl ester | 5.65 g, 43% | C(C)OC(=O)C=1N=CN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C17H11F6N3O2
